US04803270
To a suspension of 1,5-difluoro-2,4-dinitrobenzene (3.8 g) and anhydrous potassium carbonate (3.1 g) in acetonitrile (50 ml) kept at room temperature, a solution of glycolonitrile (1.5 g) in acetonitrile (10 ml) was dropwise added, followed by stirring at room temperature for 1 hour. The reaction mixture was heated and allowed to reflux for 30 minutes (inner temperature, 83° C.). After cooling, the resultant mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and concentrated to give crystalline 2,4-dinitro-5-fluorophenoxyacetonitrile (4.0 g; yield, 89.1%).

reactant | 1,5-difluoro-2,4-dinitrobenzene | 3.8 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])[N+](=O)[O-] | C6H2F2N2O4
reactant | potassium carbonate | 3.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | glycolonitrile | 1.5 g | C(CO)#N | C2H3NO
reactant | water | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2,4-dinitro-5-fluorophenoxyacetonitrile | 4.0 g, 89.1% | [N+](=O)([O-])C1=C(OCC#N)C=C(C(=C1)[N+](=O)[O-])F | C8H4FN3O5
